US06228859B1
D. 3-(3-Benzyloxy-4-methoxy-benzyl)-6-ethylamino-8-isopropyl-3H-purine hydrochloride
3-(3-Benzyloxy-4-methoxy-benzyl)-8-isopropyl-hypoxanthine (2.02 g, 5 mmole) and phosphorus oxychloride (20 ml) were heated to 70° C. for 35 min. The solution was evaporated to dryness and evaporation repeated twice after the addition of toluene (50 ml). The crude chloropurine residue was dissolved in THF (20 ml) and added at 0-5° C. to 70% aqueous ethylamine (20 ml). After 1 hour at room temperature the solvents were removed in vacuo, the residue was dissolved in dichloromethane (70 ml) and washed with 1M NaOH. The organic phase was filtered through 9 g of silicagel in a column and evaporated to dryness in vacuo. The residue was dissolved in methanol (20 ml), treated with 1M methanolic HCl (4.8 ml) and evaporated to dryness in vacuo to give 3-(3-benzyloxy-4-methoxy-benzyl)-6-ethylamino-8-isopropyl-3H-purine hydrochloride (2.20 g, 94.0%), mp 79-83° C. (after crystallization from water-saturated ether).

reactant | 3-(3-Benzyloxy-4-methoxy-benzyl)-8-isopropyl-hypoxanthine | 5 mmole, 2.02 g | C(C1=CC=CC=C1)OC=1C=C(CN2C=NC(C=3NC(=NC23)C(C)C)=O)C=CC1OC | C23H24N4O3
reactant | phosphorus oxychloride | 20 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-(3-Benzyloxy-4-methoxy-benzyl)-6-ethylamino-8-isopropyl-3H-purine hydrochloride | Cl.C(C1=CC=CC=C1)OC=1C=C(CN2C=NC(=C3N=C(N=C23)C(C)C)NCC)C=CC1OC | InChI=1S/C25H29N5O2.ClH/c1-5-26-24-22-25(29-23(28-22)17(2)3)30(16-27-24)14-19-11-12-20(31-4)21(13-19)32-15-18-9-7-6-8-10-18;/h6-13,16-17,26H,5,14-15H2,1-4H3;1H
